US06071903
To a cooled (0° C.) mixture of 1.598 g (3.91 mmol) of methyl 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-amino-5-methylbenzyl)amino]propionate and 1.97 g (19.5) mmol) of triethylamine in 15 ml of dichloromethane was added 0.787 ml (8.60 mmol) of methoxyacetylchloride. The mixture was stirred at room temperature overnight. The mixture was then diluted with CH2Cl2 and washed with H2O, 2N citric acid, H2O, brine and dried with Na2SO4. The solution was filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to give 1.94 g of crude methyl 2-{[2-(methoxyacetylamino)-5-methylbenzyl]-(4-methoxy-benzenesulfonyl)-amino}acrylate as a brown oil. Mass spectrum (ES) 463.4 (M+H).

reactant | methyl 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-amino-5-methylbenzyl)amino]propionate | 3.91 mmol, 1.598 g | OCC(C(=O)OC)N(CC1=C(C=CC(=C1)C)N)S(=O)(=O)C1=CC=C(C=C1)OC | C19H24N2O6S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methoxyacetylchloride | 8.60 mmol, 0.787 ml | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 2-{[2-(methoxyacetylamino)-5-methylbenzyl]-(4-methoxy-benzenesulfonyl)-amino}acrylate | 1.94 g | COCC(=O)NC1=C(CN(C(C(=O)OC)=C)S(=O)(=O)C2=CC=C(C=C2)OC)C=C(C=C1)C | C22H26N2O7S
